US05180733
Step 1: 2-(3-Fluorophenyl)methyl-1,3-dithiane
1,3-Dithiane (12 g, 0.1 mol) was dissolved in 150 mL of anhydrous THF under a nitrogen atmosphere. The resultant solution was cooled to -78° C. and n-butyllithium (44 mL of a 2.5M solution of in hexane, 0.11 mol) was added. The reaction mixture was warmed to -23° C. and then stirred at -23° C. for 0.5 h. The reaction mixture was recooled to -78° C. and 25 g (0.135 mol) of 3-fluorobenzyl bromide was added over a 15 minute period. The reaction mixture was stirred for 3 h at ambient temperature and then diluted with methylene chloride, washed with aqueous ammonium chloride solution and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was distilled to afford 15.2 g (66.7% yield) of the title compound, b.p. 135°-140° C. (0.5 mm Hg); MS DCI-NH3M/Z: 229 (M+H)+ ; 1H NMR (CDCl3) δ1.77-1.95 (1H, m), 2.05-2.18 (1H, m), 2.8-2.9 (4H, m), 3.02 (2H, d, J=7.5 Hz), 4.23 (1H, t, J=7.5 Hz), 6.9-7.1 (3H, m), 7.23-7.33 (1H, m).

reactant | 1,3-Dithiane | 0.1 mol, 12 g | S1CSCCC1 | C4H8S2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-fluorobenzyl bromide | 0.135 mol, 25 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(3-Fluorophenyl)methyl-1,3-dithiane | 15.2 g, 66.7% yield | FC=1C=C(C=CC1)CC1SCCCS1 | C11H13FS2
